### ISSUE TITLE
[MISFORMALISATION]: `CH2.Phi_circ.residue`, `Phi_star.residue`, `B_affine_periodic`, `phi_star_affine_periodic`

### ISSUE THREAD

**Issue by pitmonticone** [AlexKontorovich/PrimeNumberTheoremAnd#1204]
### 1. `Phi_circ.residue`

```lean
theorem Phi_circ.residue (ν ε : ℝ) (hν : ν > 0) (n : ℤ) :
    (nhds (n - I * ν / (2 * π))).Tendsto
      (fun z ↦ (z - (n - I * ν / (2 * π))) * Phi_circ ν ε z)
      (nhds (I / (2 * π))) := by
  -- This statement is false: (z - z₀) * Phi_circ(z) evaluates to 0
  -- at z = z₀ (since z₀ - z₀ = 0), but the claimed limit is I/(2π) ≠ 0.
  -- Tendsto with nhds (not nhdsWithin) requires the function value at z₀
  -- to equal the limit. Should use 𝓝[≠] z₀ instead of nhds z₀.
  sorry
```

### 2. `Phi_star.residue`

```lean
theorem Phi_star.residue (ν ε : ℝ) (hν : ν > 0) (n : ℤ) (hn : n ≠ 0) :
    (nhds (n - I * ν / (2 * π))).Tendsto
      (fun z ↦ (z - (n - I * ν / (2 * π))) * Phi_star ν ε z)
      (nhds (-I * n / (2 * π))) := by
  -- Same issue as Phi_circ.residue: should use 𝓝[≠] z₀ instead of nhds z₀.
  sorry
```

### 3. `B_affine_periodic`

```lean
theorem B_affine_periodic (ν ε : ℝ) (hν : ν > 0) (z : ℂ) (m : ℤ) :
    B ε (-2 * π * I * (z - m) + ν) =
      B ε (-2 * π * I * z + ν) + 2 * π * I * m * Phi_circ ν ε z := by
  -- This statement is false at poles. When w = -2πiz + ν = 0
  -- (i.e., z = -iν/(2π)) and m ≠ 0, B(0) = 1 (by definition) but
  -- B(2πim) uses coth(πim) = 1/tanh(πim) = 1/0 = 0
  -- (in Lean's division convention), giving LHS ≠ RHS.
  -- Needs hypotheses excluding pole points (w ≠ 0 and w + 2πim ≠ 0).
  sorry
```

### 4. `phi_star_affine_periodic`

```lean
theorem phi_star_affine_periodic (ν ε : ℝ) (hν : ν > 0) (z : ℂ) (m : ℤ) :
    Phi_star ν ε (z - m) =
      Phi_star ν ε z + m * Phi_circ ν ε z := by
  -- Same pole issue as B_affine_periodic: needs hypotheses
  -- excluding pole points.
  sorry
```

**Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>**
